US04107182
6-Hydroxy-7-methoxy-5-benzofurancarboxaldehyde
A solution of 817 mg. (3.6 mmole) of DDQ in 10 ml. of dioxane was added to 582 mg. (3 mmole) of 2.3-Dihydro-6-hydroxy-7-methoxy-5-benzofurancarboxaldehyde in 15 ml. of dioxane and the resulting mixture was heated under reflux for 7 hours, cooled and the formed solid removed by filtration. The precipitate was thoroughly washed first with benzene, then with CHCl3. The washings were combined with the initial filtrate and the total concentrated in vacuo to a residue which was chromatographed first on a 20 ml. dry silica gel column (E. Merck 7734) with CHCl3 elution followed by conventional chromatography over 20 g. of silica (E. Merck 7734) packed in benzene-ethyl acetate (95:5) and elution with this solvent mixture provided, after workup, a yellow solid, m.p. 60°-62°.

reactant | DDQ | 3.6 mmole | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | 2.3-Dihydro-6-hydroxy-7-methoxy-5-benzofurancarboxaldehyde | 3 mmole | OC1=C(C2=C(CCO2)C=C1C=O)OC | C10H10O4
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-Hydroxy-7-methoxy-5-benzofurancarboxaldehyde | OC1=C(C2=C(C=CO2)C=C1C=O)OC | C10H8O4
